US05576437
A mixture of 2-amino-4-fluoro-6-nitrotoluene (4.4 g), glycerin (7.5 g), arsenic(V) oxide hydrate (Aldrich, 54% in arsenic, 5.0 g), and concentrated sulfuric acid (35 mL) is heated to 140° C. for 4 hours. The reaction is allowed to cool to room temperature and diluted with water (300 mL). The mixture is basified with concentrated ammonium hydroxide to pH=10 and extracted with ethyl acetate (6×300 mL). The combined extracts are dried over sodium sulfate and rotary evaporated. The crude product is purified by flash chromatography on silica gel, eluting with 25% ethyl acetate/hexane to afford 7-amino-5-fluoro-8-methylquinoline as a solid.

reactant | 2-amino-4-fluoro-6-nitrotoluene | 4.4 g | NC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H7FN2O2
reactant | arsenic(V) oxide hydrate | 5.0 g | O.[As+3]=O
reactant | sulfuric acid | 35 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | glycerin | 7.5 g | OCC(O)CO | C3H8O3
solvent | water | 300 mL | O | H2O
product | 7-amino-5-fluoro-8-methylquinoline | NC1=CC(=C2C=CC=NC2=C1C)F | C10H9FN2
